US05965741
Triethylamine (5 ml) was added to a stirred suspension of 2,4-dihydroxybenzaldehyde (12 g) in dichloromethane (50 ml) at -8° C. To this mixture was added t-butylcarbonyl chloride (4.4 ml) and the mixture was allowed to warm to ambient temperature and was stirred at this temperature for 16 hours. The reaction mixture was washed consecutively with aqueous 1N hydrochloric acid (20 ml), water (20 ml) and saturated aqueous sodium bicarbonate solution (20 ml) and then dried (MgSO4). The residue obtained on removal of the solvent was subjected to chromatography on silica eluting with a mixture of ethyl acetate and hexane (1:9 v/v) to give 4-(t-butylcarbonyloxy)-2-hydroxy-benzaldehyde (5.82 g; 35%).

reactant | Triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
reactant | 2,4-dihydroxybenzaldehyde | 12 g | OC1=C(C=O)C=CC(=C1)O | C7H6O3
reactant | t-butylcarbonyl chloride | 4.4 ml | C(C)(C)(C)C(=O)Cl | C5H9ClO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | 4-(t-butylcarbonyloxy)-2-hydroxy-benzaldehyde | 5.82 g, 35% | C(C)(C)(C)C(=O)OC1=CC(=C(C=O)C=C1)O | C12H14O4
